US05574042
To a solution of methyl 4-carboxycinnamate (160 mg) in methylene chloride was added methylamine hydrochloride (58 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (140 mg) at ambient temperature, and the mixture was stirred for 2 hours. To this suspension was added 1-hydroxybenzotriazole (137 mg) and dimethylformamide (2 ml), and the mixture was stirred for 14 hours at same temperature. The reaction mixture was poured into water, and extracted with dichloromethane. The organic layer was washed with aqueous sodium bicarbonate solution and water, dried over magnesium sulfate, and evaporated in vacuo. The residue was crystallized from diisopropyl ether to give methyl 4-(methylcarbamoyl)cinnamate (82 mg) as a colorless powder.

reactant | methyl 4-carboxycinnamate | 160 mg | C(=O)(O)C1=CC=C(C=CC(=O)OC)C=C1 | C11H10O4
reactant | methylamine hydrochloride | 58 mg | Cl.CN
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 140 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 137 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | methyl 4-(methylcarbamoyl)cinnamate | 82 mg | CNC(=O)C1=CC=C(C=CC(=O)OC)C=C1 | C12H13NO3
